US08669234B2
(S)-1-((S)-6-(5-(6-(4-(2-((1R,3S,4S)-2-((S)-4-(difluoromethoxy)-2-(methoxycarbonylamino)butanoyl)-2-azabicyclo[2.2.1]heptan-3-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-ylcarbamic acid methyl ester
Methyl (S)-1-((S)-6-(5-(6-(4-(2-((1R,3S,4S)-2-azabicyclo[2.2.1]heptan-3-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-ylcarbamate tetrahydrochloride (66 mg, 0.096 mmol), (S)-4-(difluoromethoxy)-2-(methoxycarbonylamino) butanoic acid (20 mg, 0.088 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (24 mg, and hydroxybenzotriazole hydrate (HOBt) (17 mg, 0.125 mmol) were all weighed out in a flask and anhydrous N,N-dimethylformamide (1 mL) was added. The mixture was cooled down in an ice bath to 0° C. and N-methylmorpholine (NMM) (58 mg, 0.576 mmol) was added from a syringe to the mixture. The reaction content was stirred for 4 hours at room temperature. The resulting mixture was then directly purified on reverse phase prep. HPLC. 37 mg, (43%). 1H-NMR: 400 MHz, (CD3OD) δ 8.08 (s, 1H), 8.01 (d, J=16 Hz, 1H), 7.86-7.66 (m, 10H), 7.38 (s, 1H), 7.27 (s, 1H), 7.03 (d, J=8.4 Hz, 1H), 6.58 (t, J=75.6 Hz, 1H), 5.32 (t, J=7.2 Hz, 1H), 4.70 (s, 1H), 6.66-6.25 (m, 1H), 4.51 (s, 1H), 4.14 (m, 1H), 3.98-3.78 (m, 4H), 3.63 (s, 6H), 3.50-3.46 (m, 1H), 2.70 (brs, 1H), 2.39-1.78 (m, 7H), 1.71-1.40 (m, 2H), 0.99-0.90 (m, 5H), 0.82-0.60 (m, 4H). MS (ESI) m/z 894.16 [M+H]+.

reactant | Methyl (S)-1-((S)-6-(5-(6-(4-(2-((1R,3S,4S)-2-azabicyclo[2.2.1]heptan-3-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-ylcarbamate tetrahydrochloride | 0.096 mmol, 66 mg | Cl.Cl.Cl.Cl.[C@@H]12N[C@@H]([C@@H](CC1)C2)C=2NC(=CN2)C2=CC=C(C=C2)C=2C=C1C=CC(=CC1=CC2)C2=CN=C(N2)[C@H]2N(CC1(CC1)C2)C([C@H](C(C)C)NC(OC)=O)=O
reactant | (S)-4-(difluoromethoxy)-2-(methoxycarbonylamino) butanoic acid | 0.088 mmol, 20 mg | FC(OCC[C@@H](C(=O)O)NC(=O)OC)F | C7H11F2NO5
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 0.125 mmol, 17 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-methylmorpholine | 0.576 mmol, 58 mg | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (S)-1-((S)-6-(5-(6-(4-(2-((1R,3S,4S)-2-((S)-4-(difluoromethoxy)-2-(methoxycarbonylamino)butanoyl)-2-azabicyclo[2.2.1]heptan-3-yl)-1H-imidazol-5-yl)phenyl)naphthalen-2-yl)-1H-imidazol-2-yl)-5-azaspiro[2.4]heptan-5-yl)-3-methyl-1-oxobutan-2-ylcarbamic acid methyl ester | COC(N[C@H](C(=O)N1CC2(CC2)C[C@H]1C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@@H]2CC[C@H]1C2)C([C@H](CCOC(F)F)NC(=O)OC)=O)C(C)C)=O | C48H54F2N8O7
